US09422499B2
Synthesis of (2-(naphthalene-1-yl)ethyl)(octyl)sulfane
5.0 grams (32.4 mmol, MW: 154.21) 1-vinylnaphthalene, 7.1 grams (48.6 mmol, MW: 146.29) octanethiol and 0.266 grams (1.62 mmol, MW: 164.21) 2,2′-azobis(2-methylpropionitrile) (AIBN) were charged in a 25 milliliter thick sealed glass reactor. After addition, the reaction mixture was stirred for 68 hours at 110° C. The reaction was then stopped and cooled down to room temperature. The excess of unreacted octanethiol was removed by air bath oven at 200° C. under vacuum for 1 hour. The final product was determined by IR, 1HNMR. Yield: 8.8 grams (90%). IR: (cm−1) 30045, 2924, 2853, 1596, 1510, 1459, 1394, 1377, 1261, 1219, 1165, 1016, 779, 730. 1H NMR (CDCl3): 8.03-7.33 (7H, m), 3.32 (2H, t), 2.91 (2H, t), 2.55 (2H, t), 1.57 (2H, m) 1.46-1.27 (10H, m), 0.87 (3H, t).

reactant | 1-vinylnaphthalene | 32.4 mmol, 5.0 grams | C(=C)C1=CC=CC2=CC=CC=C12 | C12H10
reactant | octanethiol | 48.6 mmol, 7.1 grams | C(CCCCCCC)S | C8H18S
reactant | 2,2′-azobis(2-methylpropionitrile) | 1.62 mmol, 0.266 grams | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | (2-(naphthalene-1-yl)ethyl)(octyl)sulfane | C1(=CC=CC2=CC=CC=C12)CCSCCCCCCCC | C20H28S
